US08198456B2
KOtBu (2.38 g, 21.24 mmol) was added to a solution of 1H-pyrazolo[4,3-b]pyridine (2.3 g, 19.3 mmol) in THF (60 mL) at 0° C. After stirring at 0° C. for 1 hr, trimethylsilylethoxymethyl chloride (3.54 g, 21.24 mmol) was added. The reaction mixture was kept at 0° C. for 1 hr with stirring, then 1.5 hr at rt. The mixture was diluted with EtOAc and water and extracted with EtOAc. The combined organic phases were washed with brine, dried with Na2SO4, and concentrated. The crude product was purified by flash chromatography to afford 1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-pyrazolo[4,3-b]pyridine in (2.32 g, 48%) and the regio-isomer.

reactant | KOtBu | 21.24 mmol, 2.38 g | CC(C)(C)[O-].[K+]
reactant | 1H-pyrazolo[4,3-b]pyridine | 19.3 mmol, 2.3 g | N1N=CC2=NC=CC=C21 | C6H5N3
reactant | trimethylsilylethoxymethyl chloride | 21.24 mmol, 3.54 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-pyrazolo[4,3-b]pyridine | C[Si](CCOCN1N=CC2=NC=CC=C21)(C)C | C12H19N3OSi
